US09290485B2
c) 5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carboxylic acid
5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carboxylic acid butyl ester (45 mg, 0.165 mmol) was dissolved in ethanol (2 ml), followed by addition of 6M sodium hydroxide aqueous solution (55 μl, 0.330 mmol). The reaction mixture was stirred at 80° C. for 18 h, then cooled to 23° C. and neutralized with 1M hydrochloric acid. Solvents were removed in vacuo. The crude mixture of title compound and NaCl was used without further purification for the next step. HPLC (method G) Rt=1.241 min.

reactant | 5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carboxylic acid butyl ester | 0.165 mmol, 45 mg | C(CCC)OC(=O)C1=NN(C(=N1)CC1=CC=CC=C1)C | C15H19N3O2
reactant | sodium hydroxide | 0.330 mmol, 6M, 55 μl | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-Benzyl-1-methyl-1H-[1,2,4]triazole-3-carboxylic acid | C(C1=CC=CC=C1)C1=NC(=NN1C)C(=O)O | C11H11N3O2
